US06200998B1
Step A: Preparation of 1-diazo-4,4-dimethyl-2-pentanone.
A solution of tert-butyl acetyl chloride (1.136 grams) in dry ethyl ether (10 mL) was slowly added to a 0° C. diethyl ether (20 mL) solution of freshly generated diazomethane (from 20 grams Diazald). After stirring for 30 minutes, the reaction was warmed to ambient temperature for another 30 minutes. Acetic acid (2 mL) was added and the reaction partitioned between methyl tert-butyl ether and water. The organic was washed once with water, dried over magnesium sulfate and filtered. Concentration afforded an oil containing the title compound which was immediately used with no further purification.

reactant | tert-butyl acetyl chloride | 1.136 grams | C(C)(C)(C)CC(=O)Cl | C6H11ClO
reactant | diazomethane | 20 grams | [N+](=[N-])=C | CH2N2
reactant | Acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | ethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | 1-diazo-4,4-dimethyl-2-pentanone | [N+](=[N-])=CC(CC(C)(C)C)=O | C7H12N2O
